### PR TITLE
[Merged by Bors] - chore(Algebra/MonoidHom): rename to `.ofClass`

### PR DESCRIPTION
**Pull request by jjdishere**
Following [#mathlib4 > Mathlib's morphism hierarchy](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Mathlib.27s.20morphism.20hierarchy/with/554383157) item 2, rename `MonoidHomClass.toMonoidHom` to `MonoidHom.ofClass`.

Lemmas with name `coe_monoidHom_foo` and `coe_addMonoidHom_foo` (related to simp normal form) are temporarily renamed to `ofClass_monoidHom_foo` and `ofClass_addMonoidHom_foo`. They will be renamed to `toMonoidHom_foo` `toAddMonoidHom_foo` once we moved the `coe` from `.ofClass f` to `f.toMonoidHom`.

This is in parallel with #43611 (refactoring definitions from taking `MonoidHomClass` to taking `MonoidHom`).

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by jjdishere** [comment]
~The name of the theorem `MonoidHom.coe_coe` will be refactored to `MonoidHom.coe_ofClass` in next PR #43611.~

**Comment by themathqueen** [comment]
> The name of the theorem `MonoidHom.coe_coe` will be refactored to `MonoidHom.coe_ofClass` in next PR #43611.

I think you could just do it here. The other one should probably only be removing the coercion? (See #43557 for example)

**Comment by jjdishere** [comment]
> I think you could just do it here. The other one should probably only be removing the coercion? (See #43557 for example)

Renaming is now included in this PR. This PR is ready for review now.

File: Mathlib/Algebra/Algebra/Hom.lean [hunk 1]
```diff
@@ -186,11 +186,11 @@ theorem coe_fn_inj {φ₁ φ₂ : A →ₐ[R] B} : (φ₁ : A → B) = φ₂ ↔
...
 
-theorem coe_monoidHom_injective : Function.Injective ((↑) : (A →ₐ[R] B) → A →* B) :=
-  RingHom.coe_monoidHom_injective.comp coe_ringHom_injective
+theorem ofClass_monoidHom_injective : Function.Injective ((↑) : (A →ₐ[R] B) → A →* B) :=
+  RingHom.ofClass_monoidHom_injective.comp coe_ringHom_injective
 
-theorem coe_addMonoidHom_injective : Function.Injective ((↑) : (A →ₐ[R] B) → A →+ B) :=
-  RingHom.coe_addMonoidHom_injective.comp coe_ringHom_injective
+theorem ofClass_addMonoidHom_injective : Function.Injective ((↑) : (A →ₐ[R] B) → A →+ B) :=
+  RingHom.ofClass_addMonoidHom_injective.comp coe_ringHom_injective
```
Comment (themathqueen) [inline Mathlib/Algebra/Algebra/Hom.lean]: missing deprecations (actually I think there are a lot of missing deprecations according to the declarations-diff, can you please add them all?)

Comment (jjdishere) [reply Mathlib/Algebra/Algebra/Hom.lean]: @themathqueen Thanks for the reminder. I'll add them in this PR.

I’d like to get your opinion on this: these lemmas will be renamed again soon (in the next PR). Should I add deprecations for the old names in this PR, and then add deprecations for the temporary names in the next PR?

Comment (themathqueen) [reply Mathlib/Algebra/Algebra/Hom.lean]: My first thought is: why not just name this `toAddMonoidHom_injective` (and the rest similarly)?
That way you wouldn't need to rename it twice, would you?

Comment (jjdishere) [reply Mathlib/Algebra/Algebra/Hom.lean]: Sure! Added.

File: Mathlib/RingTheory/Coalgebra/Hom.lean
Comment (themathqueen) [inline Mathlib/RingTheory/Coalgebra/Hom.lean:168]: I just remembered this one was renamed to `linearMapOfClass_injective` not `toLinearMap_injective`.
I'm not going to ask you to change the name of `toAddMonoidHom_injective` again though, because you're changing the coercion in a followup PR and like I said before I don't think there's a need to rename them twice.

File: Mathlib/GroupTheory/FreeAbelianGroup.lean [hunk 2]
```diff
@@ -502,17 +502,20 @@ def liftMonoid : (α →* R) ≃ (FreeAbelianGroup α →+* R) where
...
       ofMulHom_coe, Function.comp_apply, lift_apply_of, forall_const]
-  right_inv F := RingHom.coe_addMonoidHom_injective <| by
+  right_inv F := RingHom.toAddMonoidHom_injective <| by
     simp only
     rw [← lift.apply_symm_apply (↑F : FreeAbelianGroup α →+ R)]
     rfl
 
 @[simp]
-theorem liftMonoid_coe_addMonoidHom (f : α →* R) : ↑(liftMonoid f) = lift f :=
+theorem liftMonoid_toAddMonoidHom (f : α →* R) : ↑(liftMonoid f) = lift f :=
```
Comment (themathqueen) [inline Mathlib/GroupTheory/FreeAbelianGroup.lean]: can we rename this to `toAddMonoidHom_liftMonoid` instead

**Review by themathqueen — COMMENTED** [review]
I think this looks fine now

**Comment by themathqueen** [comment]
According to the declarations-diff, there's a missing deprecation:
```diff
-DirectSum.toSemiring_coe_addMonoidHom
```
(possibly this is a `simps` generated lemma?)

File: Mathlib/RingTheory/Coalgebra/Hom.lean
Comment (jjdishere) [reply Mathlib/RingTheory/Coalgebra/Hom.lean:168]: Thanks!
These statements don't deserve these names now, but they will after a followup PR. The statements as code string (and their designed usage) won't change, but the implicit coercion used in statements will change.

**Comment by jjdishere** [comment]
> According to the declarations-diff, there's a missing deprecation:
> 
> ```diff
> -DirectSum.toSemiring_coe_addMonoidHom
> ```

Nice catch! Fixed.

**Review by themathqueen — APPROVED** [review]

**Comment by themathqueen** [comment]
Thanks!

maintainer merge

**Review by j-loreaux — COMMENTED** [review]
Looks good! Thanks for doing this!

bors merge
